US04462923
9.0 g of trans-5-(4-pentylcyclohexyl)-2-pyrimidinecarboxaldehyde are dissolved in 150 ml of pyridine under a nitrogen atmosphere, treated with 3.9 g of hydroxylamine hydrochloride and stirred at room temperature for 2 hours. Thereafter, the mixture is treated with 18.3 g of benzenesulphonyl chloride, the temperature rising to about 50° C. Subsequently, the mixture is stirred at a bath temperature of 70° C. for 6 hours, then cooled, poured into 500 ml of ice/water and 100 ml of concentrated hydrochloric acid and extracted with ether. The extract is washed with dilute hydrochloric acid, washed neutral with water, dried over sodium sulphate and evaporated. The crude product obtained is chromatographed on a column of 275 g of silica gel with hexane/20% ether. The almost pure fractions (in accordance with thin-layer chromatography) are combined and recrystallized three times from hexane. There is obtained pure trans-5-(4-pentylcyclohexyl)-2-pyrimidinecarbonitrile; m.p. 83.5° C.

reactant | trans-5-(4-pentylcyclohexyl)-2-pyrimidinecarboxaldehyde | 9.0 g | C(CCCC)[C@@H]1CC[C@H](CC1)C=1C=NC(=NC1)C=O | C16H24N2O
reactant | hydroxylamine hydrochloride | 3.9 g | Cl.NO
reactant | benzenesulphonyl chloride | 18.3 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | trans-5-(4-pentylcyclohexyl)-2-pyrimidinecarbonitrile | C(CCCC)[C@@H]1CC[C@H](CC1)C=1C=NC(=NC1)C#N | C16H23N3
